US07410972B2
(a) 5-Bromo-3-phenoxy-2-pyrazinamine
Sodium phenoxide trihydrate (0.5 g) and 3,5-dibromo-2-pyrazinamine (0.5 g) in acetonitrile (20 mL) were heated at reflux for 7 hours. After cooling, water was added and the reaction mixture extracted with ethyl acetate (x2). The combined extracts were dried (MgSO4) and the solvent evaporated to give the sub-title compound as a white solid.

reactant | Sodium phenoxide trihydrate | 0.5 g | O.O.O.[O-]C1=CC=CC=C1.[Na+]
reactant | 3,5-dibromo-2-pyrazinamine | 0.5 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | water | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 5-Bromo-3-phenoxy-2-pyrazinamine | BrC=1N=C(C(=NC1)N)OC1=CC=CC=C1 | C10H8BrN3O
